datasets/10k_Mayr_OG.csv
SMILES Labelled
CC[O:92][C:61]([C-:10](C)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>CC[O:92][C:61]([C:10](C)([C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20
"CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C1(C)C.CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2[C@@H](CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[N-:21]1 10,11=10,20;12=11,12;20,21=21"
"CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N:10]2.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N+:10]2=[C:61](C)[NH:62][C:63]3=[C:64]2C=C(C)C=C3)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CC1(C)C[O:12][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C2=CC=CC=C2)[O:62]C1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)C[O+:12]=[B-:11](C2=CC=C(C(F)(F)F)C=C2)[O:62]C1.C[CH:10](C1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"C1C[C:20](=[O:21])CCS1.COC(=O)C12C3C4C5C1[W-3:11]4532(C#[O+])(C#[O+])(C#[O+])[H:10]>>C1C[C:20]([H:10])([O-:21])CCS1.COC(=O)C12C3C4C5C1[W-2:11]4532(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"C1=CC=C(C[N:10]=[C:11]2[NH:12]CC[NH:62]2)C=C1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10](CC2=CC=CC=C2)[C:11]2=[NH+:12]CC[NH:62]2)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC(C)(C)[N:61]1[C-:10]=[N+:71](C)[CH:63]=[CH:62]1.C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)(C)[N:61]1[C:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[C:34](C)[CH:35]=[CH:36]2)[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)=[N+:71](C)[CH:63]=[CH:62]1 10=20
"CC[O:72][C:61](/[C:10](F)=[C:11](\[O-:12])[O:82]CC)=[O:62].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10](F)([C:11](=[O:12])[O:82]CC)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[O:62] 10,11=10,20;12=11,12"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].C1=CC=C([P:61](C2=CC=CC=C2)([CH:10]=[C:11]=[N-:12])=[O:62])C=C1>>C1=CC=C([P:61](C2=CC=CC=C2)([CH:10]([C:11]#[N:12])[CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[O:62])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1.C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>C[C:10]([C:11]#[N:12])([CH:20]1CC[C:22]([O-:23])=[C:21]1C)[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][C:11](C)=[CH2:10].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[C:11](C)[CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]1 10,11=10,20;12=11,12"
CC[O:82][C:71]([C-:10]1CCCCC[C:62]1=[O:61])=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:82][C:71]([C:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)CCCCC[C:62]1=[O:61])=[O:72] 10=20
"C1CCC([P:10](C2CCCCC2)C2CCCCC2)CC1.C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F>>C[N-:21]C1=CC=CC=C1.FC(F)(F)[S:20][P+:10](C1CCCCC1)(C1CCCCC1)C1CCCCC1 10=20;20,21=21"
"CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]1>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([C:10](C)([C:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
